US07378409B2
A stirred suspension of NaH (60% in mineral oil, 160 mg) in tetrahydrofuran (3 mL) on an ice bath was treated dropwise over 10 min with tert-butyl dimethylphosphonoacetate (0.796 mL). The mixture was stirred at rt for 15 min, then was cooled again on an ice bath and treated with a solution of (1R,2S,5R)-tert-butyl 2-(benzyloxycarbonylamino)-7-hydroxy-6-aza-bicyclo[3.2.1]octane-6-carboxylate (432 mg) in tetrahydrofuran (3 mL). The mixture was stirred at rt for 3 h. The mixture was treated with saturated aqueous NH4Cl and diluted with ethyl acetate. The phases were separated and the aqueous phase was extracted three times with ethyl acetate. The combined organic phases were dried over Na2SO4 and concentrated under vacuum. The residue was purified by flash column chromatography on silica gel, eluting with hexane/ethyl acetate to provide tert-butyl 3-((1S,2S,5R)-2-(benzyloxycarbonylamino)-5-(tert-butoxycarbonylamino)cyclohexyl)acrylate as a white glassy foam (308 mg). MS found: (M+H)+=475.5.

reactant | NaH | 160 mg | [H-].[Na+]
reactant | tert-butyl dimethylphosphonoacetate | 0.796 mL | COP(=O)(OC)CC(=O)OC(C)(C)C | C8H17O5P
reactant | (1R,2S,5R)-tert-butyl 2-(benzyloxycarbonylamino)-7-hydroxy-6-aza-bicyclo[3.2.1]octane-6-carboxylate | 432 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H]2C(N([C@H](CC1)C2)C(=O)OC(C)(C)C)O | C20H28N2O5
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-((1S,2S,5R)-2-(benzyloxycarbonylamino)-5-(tert-butoxycarbonylamino)cyclohexyl)acrylate | 308 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(=O)OC(C)(C)C)C=CC(=O)OC(C)(C)C | C26H38N2O6
